US07923450B2
b) [4-(2,4-Dichloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (62 mg, 0.24 mmol) and of crude 2-bromo-6-(2,4-dichloro-phenyl)-cyclohexanone (79 mg, 0.25 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 3 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (43 mg, 37%) as an off-white solid. MS ISP (m/e): 485.3/487.3 (100/73) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=8.00 (s, 1H), 7.47 (s, 1H), 7.39 (s, 1H), 7.11 (m, 2H), 6.89 (m, 2H), 6.75 (d, 1H), 4.47 (m, 1H), 3.60 (s, 3H), 2.76 m, 2H), 2.38 (s, 3H), 2.22 (m, 1H), 1.86 (m, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.24 mmol, 62 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 2-bromo-6-(2,4-dichloro-phenyl)-cyclohexanone | 0.25 mmol, 79 mg | BrC1C(C(CCC1)C1=C(C=C(C=C1)Cl)Cl)=O | C12H11BrCl2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | [4-(2,4-Dichloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 43 mg, 37% | ClC1=C(C=CC(=C1)Cl)C1CCCC2=C1N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C24H22Cl2N4OS
